US03996232
1-(2,6-Dichlorophenyl)-5-methylbiguanide hydrochloride (14 g) is added to concentrated sulfuric acid (18 ml) and stirred for 5 minutes. Concentrated nitric acid (Sp. G. 1.51) (2.5 ml) is added dropwise, maintaining the temperature between 30° and 40° by water cooling if necessary. After addition of the nitric acid is complete, the mixture is stirred for 10 minutes, then poured into water. The mixture is made alkaline with sodium hydroxide, then extracted with ether. The ether extract is washed, dried (Na2SO4), evaporated and the residue crystallized from aqueous methanol to give 1-(4-nitro-2,6-dichlorophenyl)-5-methylbiguanide.

reactant | 1-(2,6-Dichlorophenyl)-5-methylbiguanide hydrochloride | 14 g | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)NC(=N)NC
reactant | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(4-nitro-2,6-dichlorophenyl)-5-methylbiguanide | [N+](=O)([O-])C1=CC(=C(C(=C1)Cl)NC(=N)NC(=N)NC)Cl | C9H10Cl2N6O2
